US05668137
Using an analogous procedure to that described in Example 1 part (v), but starting from N-(5-chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-2-iodobenzenesulphonamide and 4-(2-(2H)-tetrahydropyranyloxy)phenylboronic acid, there was obtained in 57% yield N-(5-chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-4'-[2-(2 H)-tetrahydropyranyloxy]-2-biphenylsulphonamide, m.p. 142°-143° C.; microanalysis found: C, 56.3; H, 5.5; N, 7.1%; C27H30C1N3O7 requires: C, 56.3; H, 5.25; N, 7.3%.

reactant | N-(5-chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-2-iodobenzenesulphonamide | ClC=1N=C(C(=NC1)N(S(=O)(=O)C1=C(C=CC=C1)I)C(=O)OCC(C)C)OC | C16H17ClIN3O5S
reactant | 4-(2-(2H)-tetrahydropyranyloxy)phenylboronic acid | O1C(CCCC1)OC1=CC=C(C=C1)B(O)O | C11H15BO4
product | N-(5-chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-4'-[2-(2 H)-tetrahydropyranyloxy]-2-biphenylsulphonamide | 57% yield | ClC=1N=C(C(=NC1)N(S(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)OC1OCCCC1)C(=O)OCC(C)C)OC | C27H30ClN3O7S
